Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
palpitations 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ female with remote history of Graves' disease, 
transferred from urgent care for several hours of palpitations 
that persist in addition to resolved mild chest and jaw 
tightness, found to be in rapid atrial fibrillation.  

 Patient had an episode of palpitations first in ___. At 
the time she felt dehydrated; symptoms resolved in ___ hours. 
Again 6 weeks ago had recurrent palpitations while working in 
the yard, symptoms resolved spontaneously. Did not seek medical 
care after these episodes.  

 Today she had acute onset of palpitations while carrying 
laundry up her steps. Noted her heart rate was very fast and 
irregular, checked her BP and systolic BP was 170 (normally 
___. She had jaw pain and left scapular pain, but no pain 
in the chest, no dyspnea, lightheadedness, dizziness, nausea, 
diaphoresis. Denies lower extremity edema or orthopnea.  

 She is on levothyroxine, with no recent change in dose and has 
no hx CAD. ROS negative for fever, UTI, URI or abdominal 
symptoms.  

 In the ED, initial vital signs were: 97.9 85 114/49 16 99% RA.  

 - Exam was notable for: Clear to auscultation bilaterally, 
euvolemic, benign abdomen, well-perfused extremities.  
 - Labs were notable for: wbx 10.6, serum chemistries WNL, Trop 
<0.01, INR 1, T4 and T3 pending. UA negative.  
 - Imaging: CXR unremarkable  
 - The patient was given: 1L NS, Diltiazem 5mg IV x4, Diltiazem 
30mg PO x1, 1L NS and started on IV heparin.  

 She received diltiazem for heart rates in the 150s while up 
using the restroom. After received two back to back doses of 5mg 
IV diltiazem, she developed symptomatic conversion pauses and 
several 5 second sinus pauses in the setting of consecutive 
PACs, with associated lightheadedness and hot flushing sensation 
as if she were going to pass out.  
 - Pt was admitted to medicine for: management of new AF with 
RVR.  
 Vitals prior to transfer were: 98.0 66 107/47 18 98% RA  
 Upon arrival to the floor, patient feels well.  

 
Past Medical History:
- Graves' disease s/p radioactive iodine treatment  
- Positive ___'s antibodies  
- Right TKR  
- History of adrenal insufficiency  

 
Social History:
___
Family History:
Mother, sisters and brother have thyroid abnormalities. Brother 
with atrial fibrillation
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VITALS: T 98, BP111/45, HR 67, RR 18, SPO2 95% on RA  
 admit weight 71.4kg  
 GENERAL: Pleasant, well-appearing, in no apparent distress.  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
 NECK: Supple, no LAD, no thyromegaly, JVP flat.  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Clear to auscultation bilaterally, without wheezes 
or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.

DISCHARGE PHYSICAL EXAM: 
VITALS: T 98.1 , BP111/48, HR 67, RR 18, SPO2 95% on RA  
 admit weight 71.4kg  
 GENERAL: Pleasant, well-appearing, in no apparent distress.  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
 NECK: Supple, no LAD, no thyromegaly, JVP flat.  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Clear to auscultation bilaterally, without wheezes 
or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
 SKIN: Without rash.  
 NEUROLOGIC: AAOx3, moving all extremities.
 
Pertinent Results:
ADMISSION LABS: 

___ 05:42PM BLOOD WBC-10.6* RBC-4.91 Hgb-16.2* Hct-45.6* 
MCV-93 MCH-33.0* MCHC-35.5 RDW-11.7 RDWSD-39.5 Plt ___
___ 05:42PM BLOOD Neuts-57.9 ___ Monos-8.1 Eos-1.9 
Baso-1.1* Im ___ AbsNeut-6.12* AbsLymp-3.24 AbsMono-0.86* 
AbsEos-0.20 AbsBaso-0.12*
___ 05:42PM BLOOD Plt ___
___ 07:00PM BLOOD ___ PTT-31.4 ___
___ 05:42PM BLOOD Glucose-142* UreaN-20 Creat-0.7 Na-138 
K-4.9 Cl-103 HCO3-18* AnGap-22*
___ 06:44PM URINE Color-Straw Appear-Clear Sp ___
___ 06:44PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

CARDIAC LABS: 
___ 04:04AM BLOOD cTropnT-<0.01
___ 05:42PM BLOOD cTropnT-<0.01

PERTINENT IMAGING: 

TTE (___): 

The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

MICRO: None

DISCHARGE LABS: 

___ 04:04AM BLOOD WBC-7.6 RBC-4.45 Hgb-14.3 Hct-43.1 MCV-97 
MCH-32.1* MCHC-33.2 RDW-11.9 RDWSD-42.5 Plt ___
___ 10:35AM BLOOD PTT-80.4*
___ 04:04AM BLOOD Plt ___
___ 04:04AM BLOOD Glucose-92 UreaN-18 Creat-0.6 Na-143 
K-3.5 Cl-109* HCO3-23 AnGap-___ woman with history of Grave's disease s/p radioactive iodine 
treatment, on levothyroxine, presenting with atrial fibrillation 
with rapid ventricular response during which the patient feels 
palpitations. This is likely her ___ episode; the first in 
___, and the most recent in ___ (patient had 
identical symptoms but did not seek care at those times). Her 
troponins were negative x 2. Infectious work-up was negative. 
Her symptoms resolved after diltiazem in the ED. Echo on ___ 
showed normal LVEF and no valvular disease. She was started on a 
heparin drip, but ultimately transitioned to warfarin (the 
patient did not want to be treated with a novel oral 
anticoagulant). She will NOT be bridged to a therapeutic INR. 
Goal INR ___. INR on day of discharge was 1.0. She did not 
receive any warfarin while inpatient. Her warfarin will be 
managed by her PCP who was notified by telephone prior to 
patient's discharge. 

 # New Afib with RVR: CHA2DS2-VASc of 2, for age and gender, 
which gives her 2.2% annual stroke risk, and by current 
guidelines warrants anticoagulation. Normal renal function so 
she qualifies for NOAC, however valvular function is unknown. 
Precipitant of new Afib unclear, T3 and T4 normal. Her 
infectious ROS was negative and UA and CXR were unremarkable. No 
evidence of CHF. Patient fortunately converted to sinus rhythm 
but prior to this developed symptomatic conversion and sinus 
pauses in the ED after receiving doses of IV diltiazem.  She is 
very wary of beta blockers as they drop her blood pressure and 
make her feel down, although she agreed to use metoprolol prn. 
She preferred to use warfarin as anticoagulation given that her 
brother is on it. 
 
 # Grave's disease, s/p RAI:  Normal T3,T4. .Unithroid 
nonformulary; given Levothyroxine while inpatient.   

 #Adrenal insufficiency: Continued home dose cortisone

Transitional Issues: 
#Atrial Fibrillation with RVR: 
[ ] Started Warfarin 2.5 mg daily followed by PCP, pending 
cardiology follow-up. 
[ ] Given Rx for Metoprolol Tartrate 25mg-50mg daily PRN 
palpitations, as patient did not feel comfortable starting daily 
standing metoprolol since she has had hypotension with beta 
blockers in the past.

#CONTACT: Husband ___ ___ 
#CODE STATUS: Full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrocortisone 10 mg PO 7AM 
2. Hydrocortisone 5 mg PO LUNCH 
3. Hydrocortisone 2.5 mg PO 4PM 
4. Divigel (estradiol) 0.25 mg (0.1 %) transdermal DAILY 
5. Venlafaxine XR 37.5 mg PO DAILY 
6. Unithroid (levothyroxine) 100 mcg oral DAILY 
7. Liothyronine Sodium 37.5 mcg PO DAILY 
8. TraZODone 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Warfarin 2.5 mg PO DAILY16 
Please get INR on ___. Call ___, RN at 
___ once blood is drawn 
RX *warfarin 1 mg 2.5 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0
2. Outpatient Lab Work
INR. Please draw on ___. Ddx: Atrial Fibrillation. ICD 10: 
___ Fax result to Dr. ___ ___. Office phone 
___.
3. Divigel (estradiol) 0.25 mg (0.1 %) transdermal DAILY 
4. Liothyronine Sodium 37.5 mcg PO DAILY 
5. Unithroid (levothyroxine) 100 mcg oral DAILY 
6. Hydrocortisone 10 mg PO 7AM 
7. Hydrocortisone 5 mg PO LUNCH 
8. Hydrocortisone 2.5 mg PO 4PM 
9. TraZODone 50 mg PO QHS:PRN insomnia 
10. Venlafaxine XR 37.5 mg PO DAILY 
11. Metoprolol Tartrate 50 mg PO DAILY:PRN palpitations 
Take ___ tab at onset of palpitations. Take another ___ if 
symptoms continue after 30 min 
RX *metoprolol tartrate 50 mg 0.5-1.0 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Paroxysmal Atrial Fibrillation

Secondary Diagnoses: 
Hypothyroidism
Adrenal Insufficiency 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___, 

You came into the hospital because you were having a fast heart 
rhythm and had some pain in your jaw and in your back.  You were 
diagnosed with atrial fibrillation with rapid ventricular 
response. We determined that there was no damage to your heart 
muscle as a result of the fast heart rate.  The fast heart rate 
resolved with some diltiazem.  We did an ultrasound of your 
heart which did not show any abnormalities. 

We recommend that you take warfarin (anticoagulant) in order to 
prevent stroke. We also suggest that you take a beta-blocker 
(Metoprolol tartrate) only as needed for symptoms.  You should 
also follow-up with a cardiologist. 

It was a pleasure taking care of you, 

- Your ___ Team 
 
Followup Instructions:
___